US07579473B2
A mixture of iron powder (45.2 g, 0.809 g atoms), ammonium formate (53.6 g, 0.850 mol), 1-benzyloxy-2-fluoro-4-nitrobenzene (50.0 g, 0.200 mol), toluene (400 mL) and water (400 mL) was heated to reflux overnight. The mixture was filtered through Celite and washed with hot ethyl acetate. The combined organic layers were washed with water and brine, then dried over sodium sulfate and concentrated to afford 4-benzyloxy-3-fluoroaniline (44 g, 100%). 1H NMR (400 MHz, d6-DMSO): δ 7.43-7.26 (m, 5H), 6.90 (dd, 1H), 6.49 (dd, 1H), 6.34 (m, 1H), 4.99 (br s, 2H), 4.98 (s, 2H); 13C NMR (100 MHz, d6-DMSO): 6171.1, 155.1, 152.7, 144.9, 138.0, 137.2, 129.6, 129.0, 128.5, 118.9, 110.0, 102.9, 72.5; IR (cm−1): 1510, 1454, 1277, 1215, 1126, 1007, 957, 843, 800, 789, 739, 694, 604; LC/MS (M+H=218).

reactant | ammonium formate | 0.850 mol, 53.6 g | C(=O)[O-].[NH4+]
reactant | 1-benzyloxy-2-fluoro-4-nitrobenzene | 0.200 mol, 50.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C13H10FNO3
reactant | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
catalyst | iron | 45.2 g | [Fe] | Fe
solvent | water | 400 mL | O | H2O
product | 4-benzyloxy-3-fluoroaniline | 44 g, 100% | C(C1=CC=CC=C1)OC1=C(C=C(N)C=C1)F | C13H12FNO
